US09315458B2
A) methyl 5-(4-cyano-3-fluorobenzyl)-2-hydroxy-3,4-dimethylbenzoate
To a mixture of methyl 2-hydroxy-3,4-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate (1.07 g), 4-(chloromethyl)-2-fluorobenzonitrile (0.89 g), 2 mol/L aqueous sodium carbonate solution (3.50 mL) and DME (20.0 mL) was added [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane adduct (0.14 g) under argon atmosphere, and the mixture was stirred overnight at 80° C., and then at room temperature for weekend. To the reaction mixture was added water at room temperature, and the mixture was extracted with ethyl acetate. The organic layer was separated, washed with water and saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (1.10 g).

reactant | methyl 2-hydroxy-3,4-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 1.07 g | OC1=C(C(=O)OC)C=C(C(=C1C)C)B1OC(C(O1)(C)C)(C)C | C16H23BO5
reactant | 4-(chloromethyl)-2-fluorobenzonitrile | 0.89 g | ClCC1=CC(=C(C#N)C=C1)F | C8H5ClFN
reactant | sodium carbonate | 2 mol/L, 3.50 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | DME | 20.0 mL | COCCOC | C4H10O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane | 0.14 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
solvent | water | O | H2O
product | methyl 5-(4-cyano-3-fluorobenzyl)-2-hydroxy-3,4-dimethylbenzoate | 1.10 g | C(#N)C1=C(C=C(CC=2C(=C(C(=C(C(=O)OC)C2)O)C)C)C=C1)F | C18H16FNO3
